US09023849B2
1-(2-Fluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidine-3-carboximidohydrazide
688 mg (approx. 2.20 mmol, purity 92%) of 1-(2-fluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidine-3-carboximidamide were initially charged in 10 ml of ethanol and cooled to 0° C. 891 mg (8.80 mmol) of triethylamine and 138 mg (2.20 mmol) of 80% hydrazine hydrate were added, and the mixture was stirred at room temperature for 18 h. The mixture was concentrated on a rotary evaporator, taken up in ethyl acetate and washed three times with saturated aqueous sodium chloride solution. The organic phase was dried over sodium sulphate, concentrated on a rotary evaporator and dried under high vacuum. 654 mg (purity 93%, 92% of theory) of the target compound were obtained.

reactant | 1-(2-fluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidine-3-carboximidamide | approx. 2.20 mmol, 688 mg | FC1=C(CN2N=C(C=3C2=NC(=NC3)C)C(N)=N)C=CC=C1 | C14H13FN6
reactant | triethylamine | 8.80 mmol, 891 mg | C(C)N(CC)CC | C6H15N
reactant | hydrazine hydrate | 2.20 mmol, 138 mg | O.NN
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-(2-Fluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidine-3-carboximidohydrazide | FC1=C(CN2N=C(C=3C2=NC(=NC3)C)C(NN)=N)C=CC=C1 | C14H14FN7
